US04236002
7-[[[4-Hydroxy-3-(methylthiomethyl)phenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, p-pivaloyloxybenzyl ester
7-[[[4-Hydroxy-3-(methylthiomethyl)phenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, sodium salt, 6.0 mmole, is added to 35 ml of dimethylformamide (DMF) with stirring. Then about 2 equivalents of pivaloyloxybenzyl alcohol is added to the mixture cooled to 0° C. Then 7.0 mmole of dicyclohexylcarbodiimide in 7.5 ml of DMF is added to the mixture which is stirred at 0° C. for 1 hour and at room temperature for 4 hours. The reaction mixture is diluted with ethyl acetate, washed thoroughly with water and the organic phase is dried and filtered. Removal of the ethyl acetate gives the title compound.

reactant | 7-[[[4-Hydroxy-3-(methylthiomethyl)phenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | OC1=C(C=C(C=C1)CC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C)CSC | C18H20N2O5S2
reactant | sodium | [Na] | Na
reactant | pivaloyloxybenzyl alcohol | about 2 equivalents | C(C(C)(C)C)(=O)OC(C1=CC=CC=C1)O | C12H16O3
reactant | dicyclohexylcarbodiimide | 7.0 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | DMF | 7.5 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[[[4-Hydroxy-3-(methylthiomethyl)phenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, p-pivaloyloxybenzyl ester | OC1=C(C=C(C=C1)CC(=O)NC1C2SCC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC(C(C)(C)C)=O)C)CSC | C30H34N2O7S2
